US07902248B2
This estimated 80% pure (E)-(3-chloro-4-methanesulfonyl-phenyl)-isopropoxyimino-acetic acid methyl ester (0.52 g, <1.5 mmol) was dissolved in methanol (14 mL) and cooled to 0° C. An aqueous solution of lithium hydroxide (2.0 N, 1.86 mL, 3.72 mmol) was added dropwise. After stirring 1.25 h, the reaction mixture was diluted with chloroform (175 mL) and washed with 0.2 M aqueous potassium bisulfate solution (50 mL). The aqueous phase was extracted with chloroform (75 mL) and the combined organic phases were dried over magnesium sulfate and evaporated in vacuo to afford (E)-(3-chloro-4-methanesulfonyl-phenyl)-isopropoxyimino-acetic acid (506 mg, quant.) as a slightly yellow paste that was used without further purification.

reactant | (E)-(3-chloro-4-methanesulfonyl-phenyl)-isopropoxyimino-acetic acid methyl ester | <1.5 mmol, 0.52 g | COC(/C(=N/OC(C)C)/C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C13H16ClNO5S
reactant | lithium hydroxide | 3.72 mmol, 2.0 N, 1.86 mL | [OH-].[Li+]
solvent | methanol | 14 mL | CO | CH4O
solvent | chloroform | 175 mL | C(Cl)(Cl)Cl | CHCl3
product | (E)-(3-chloro-4-methanesulfonyl-phenyl)-isopropoxyimino-acetic acid | 506 mg | ClC=1C=C(C=CC1S(=O)(=O)C)\C(\C(=O)O)=N/OC(C)C | C12H14ClNO5S
